US04374829
In the manner described in Example 26, ethyl-2-oxo-4-(2-naphthyl)-butyrate and L-alanyl-L-proline are condensed in the presence of sodium cyanoborohydride to yield N-[1-ethoxycarbonyl-3-(2-naphthyl)propyl]-L-alanyl-L-proline. The mass spectrum shows a molecular ion at 426 and a peak at 408 (M-18, H2O). The nmr spectrum is consistent with the proposed structure. The elemental analysis indicates a hemihydrate.

reactant | ethyl-2-oxo-4-(2-naphthyl)-butyrate | C(C)OC(C(CCC1=CC2=CC=CC=C2C=C1)=O)=O | C16H16O3
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-[1-ethoxycarbonyl-3-(2-naphthyl)propyl]-L-alanyl-L-proline | C(C)OC(=O)C(CCC1=CC2=CC=CC=C2C=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C24H30N2O5
